US09359358B2
Step 2: Ethyl [6-(1,4-dioxaspiro[4.5]dec-8-yloxy)-2-(trifluoromethyl)pyrimidin-4-yl]acetate
Diethyl [6-(1,4-dioxaspiro[4.5]dec-8-yloxy)-2-(trifluoromethyl)pyrimidin-4-yl]malonate (4.60 g, 9.95 mmol), was dissolved in ethanol (46 mL). Water (18 μL, 1.0 mmol) and 21% Sodium ethoxide in ethanol (0.37 mL, 1.0 mmol) were added. The reaction mixture was stirred at 75° C. for 1 hour. HPLC & LCMS analysis showed 60% decarboxylation. The heating was continued for another 2 hours (reaction complete). The reaction was diluted with aqueous bicarbonate, and extracted with EtOAc. The EtOAc extract was washed with brine, then dried (Na2SO4), and evaporated in vacuo to 3.4 g oil (88% yield). LCMS, HPLC, & NMR showed it to be clean enough to proceed. 1H NMR (400 MHz, DMSO-D6): δ7.20 (s, 1H); 5.20 (m, 1H, OCH); 4.10 (q, 2H, OCH2); 3.89 (s, 2H, CH2); 3.85 (s, 4H, OCH2); 1.5-2.0 (m, 8H); 1.15 (t, 3H, CH3). HPLC showed it to have UVmax 222 & 252 nm.

reactant | Diethyl [6-(1,4-dioxaspiro[4.5]dec-8-yloxy)-2-(trifluoromethyl)pyrimidin-4-yl]malonate | 9.95 mmol, 4.60 g | O1CCOC12CCC(CC2)OC2=CC(=NC(=N2)C(F)(F)F)C(C(=O)OCC)C(=O)OCC | C20H25F3N2O7
reactant | Water | 1.0 mmol, 18 μL | O | H2O
reactant | Sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 46 mL | C(C)O | C2H6O
solvent | bicarbonate | C([O-])(O)=O
solvent | ethanol | 1.0 mmol, 0.37 mL | C(C)O | C2H6O
product | Ethyl [6-(1,4-dioxaspiro[4.5]dec-8-yloxy)-2-(trifluoromethyl)pyrimidin-4-yl]acetate | 3.4 g, 88% yield | O1CCOC12CCC(CC2)OC2=CC(=NC(=N2)C(F)(F)F)CC(=O)OCC | C17H21F3N2O5
